US05929085
(a) N-(1-Benzyl-propyl)-formamide
To a stirred solution of formic acid (250 ml) and formamide (500 ml) was added 1-phenyl-2-butanone (25 g, 0.168 mols); the reaction was then heated to 165-170° C. for four hours. The reaction was then cooled and poured into water (1 l). The aqueous phase was then extracted with ethyl acetate (3×300 ml). The organic phase was washed with saturated sodium bicarbonate (2×200 ml) and dried over magnesium sulfate. Evaporation of the solvent yielded an oil (24.1 g, 80%).

reactant | formic acid | 250 ml | C(=O)O | CH2O2
reactant | formamide | 500 ml | C(=O)N | CH3NO
reactant | 1-phenyl-2-butanone | 0.168 mols, 25 g | C1(=CC=CC=C1)CC(CC)=O | C10H12O
solvent | water | 1 l | O | H2O
product | N-(1-Benzyl-propyl)-formamide | 24.1 g, 80% | C(C1=CC=CC=C1)C(CC)NC=O | C11H15NO
